US05714489
6-(2-Methoxycarbonyl-1-pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione
51 mmol of 6-amino-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione were reacted with 51 mmol of 2-methoxycarbonyl-2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 6-amino-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | 51 mmol | NC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H6F3N3O2
reactant | 2-methoxycarbonyl-2,5-dimethoxytetrahydrofuran | 51 mmol | COC(=O)C1(OC(CC1)OC)OC | C8H14O5
product | 6-(2-Methoxycarbonyl-1-pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | COC(=O)C=1N(C=CC1)C=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C15H10F3N3O4
